Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old ___ speaking woman with h/o HTN, CAD s/p 
NSTEMI with stent placement to LCx and RCA ___, asthma/COPD, 
HLD presenting to the ED for dyspnea.
By report from daughter, pt has been more dyspneic since awaking 
on the morning prior to admission. No clear trigger. Daughter 
says that this is a common pattern for her, that she wakes up 
unable to breathe, daughter gives albuterol neb, calls EMS if pt 
still symptomatic. She was found to have O2 sat to 60% on RA on 
EMS arrival; improved to 90% on NRB, 100% on CPAP. Given 125mg 
solumdedrol combined PTA. Never been intubated for COPD.
She was recently hospitalized from ___ for dyspnea. 
She presented with chest pain and dyspnea thought to be related 
to uncontrolled asthma. The constellation of symptoms were
identical to her previous asthma exacerbations. She was treated 
with her home nebs, her home budesonide was increased to TID, 
and her symptoms resolved. She did not receive prednisone or 
antibiotics. Since discharge, she feels better, but still short 
of breath. She had had her budesonide increased to 3x per day, 
no other medication changes.
In ED, initial VS: tmax 100.2 F, BP 200/100, HR 120, RR 24,66% 
on RA improved to 98% on bipap. At time of admission to the 
floor, patient had been transitioned to NC.
Exam: wheezing, tight, s/p nebs x2 and solumedrol
Labs: WBC 8.3, Hgb 12.5, plts 191, K 4.4, Cr 1.0, lactate 3.1, 
VBG 7.25/56/26. UA showed 600 protein, 16 WBC, few bacteria, no 
leuks or nitrates
Patient was given:
Albuterol nebs x2
Mag sulfate x2
Ipratropium x1
Ceftriaxone/azithro
Imaging notable for: CXR without definite focal consolidation
VS prior to transfer: 78 18 124/102, 99% on 1L NC
On arrival to the floor, patient is feeling better than when she 
came in. Main complaint now is pain at IV sites in hands. 
Daughter at bedside says she believes patient's breathing is at 
baseline.
 
Past Medical History:
- Asthma: diagnosed at age ___, but reports since moving to ___ 
___ years ago has had asthma symptoms; hard to interpret PFTs as 
she was unable to participate in the exam; 5 lifetime 
hospitalizations, most recently ___ for COPD exacerbation; 
no history of intubations or MICU admissions 
- CAD s/p PCI to ___ and RCA ___ and subsequent NSTEMI in ___ 
and ___ 
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.0, 159 / 77 78 20 98 RA
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, slightly dry MM, oropharynx clear
NECK: supple, no LAD, JVP elevated to angle of mandible with HOB 
at ~30 degrees
LUNGS: Poor air movement throughout. Faint crackles at ___ bases.
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
SKIN: warm, dry, no rashes
NEURO: AO x 3, CNII-XII grossly intact
ACCESS: PIVs

DISCHARGE PHYSICAL EXAM:
VITALS: 97.9, 124 / 50 73 18 93 Ra
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, slightly dry MM, oropharynx clear
NECK: supple, no LAD, JVP low
LUNGS: Poor air movement throughout. Faint crackles at ___ bases.
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
SKIN: warm, dry, no rashes
NEURO: AO x 3, CNII-XII grossly intact
ACCESS: PIVs
 
Pertinent Results:
ADMISSION LABS:
___ 06:23AM BLOOD WBC-8.3 RBC-3.96 Hgb-12.5 Hct-37.5 MCV-95 
MCH-31.6 MCHC-33.3 RDW-13.5 RDWSD-46.4* Plt ___
___ 06:23AM BLOOD Glucose-207* UreaN-12 Creat-1.0 Na-139 
K-4.4 Cl-102 HCO3-20* AnGap-21*
___ 06:23AM BLOOD proBNP-2704*
___ 06:39AM BLOOD ___ pO2-111* pCO2-56* pH-7.25* 
calTCO2-26 Base XS--3

DISCHARGE LABS:
___ 07:45AM BLOOD WBC-7.4 RBC-3.64* Hgb-11.4 Hct-33.9* 
MCV-93 MCH-31.3 MCHC-33.6 RDW-13.9 RDWSD-46.9* Plt ___
___ 07:45AM BLOOD Glucose-110* UreaN-17 Creat-1.1 Na-141 
K-4.1 Cl-103 HCO3-28 AnGap-14

RELEVANT IMAGING:
___ CT Chest without contrast:
FINDINGS: 
 
The thyroid is normal.  Several small pretracheal mediastinal 
lymph nodes are
not pathologically enlarged by CT size criteria, and appear 
unchanged from the
prior examination.  There are no pathologically enlarged 
supraclavicular,
axillary, or hilar lymph nodes.
 
The aorta and pulmonary arteries are normal in size.  The heart 
is top normal
in size and demonstrates moderate to severe coronary artery 
calcifications.
There is no pericardial effusion.
 
No pneumothorax or pleural effusion is identified. The airways 
are patent to
the subsegmental level.  Lung windows demonstrate multiple areas 
atelectasis
within the lower lobes, bilaterally.  More focal consolidation 
at the
posterior dependent right lower lobe (302:167) is new from ___. 
 Biapical
pleural thickening is more prominent on the left.
 
Several calcified granulomas are unchanged (302: 40, 89).  A 2 
mm focus of
nodular atelectasis along the left lower lobe (302:112) appears 
similar to the
prior examination.  Similarly, a 2 mm subpleural left lower lobe 
nodule (302:
122) is essentially stable.  No new or growing pulmonary nodules 
are
identified.
 
No suspicious osseous lesions are identified.
 
This examination is not tailored for the evaluation of 
subdiaphragmatic
contents.  Within this limitation, the included portions of the 
upper abdomen
demonstrates cholelithiasis and a moderate hiatal hernia.
 
IMPRESSION: 
1.  Multiple tiny, bilateral micronodules which appear stable 
from at least
___.  No new or enlarging pulmonary nodule.  No evidence 
for chronic
interstitial lung disease or aspiration changes.
2.  New bibasilar consolidations, right greater than left, 
demonstrating mixed
and predominantly low attenuation.  Findings may represent 
atelectasis, but
pulmonary infarction is not excluded.  If clinically indicated, 
a chest CTA
could be considered for the evaluation of chronic pulmonary 
embolism.
3.  Borderline cardiomegaly and severe coronary artery 
calcifications.
4.  Cholelithiasis and a moderate axial hiatal hernia.

 
Brief Hospital Course:
___ year old ___ speaking woman with h/o HTN, CAD s/p 
stenting in ___, long smoking history and likely associated 
lung disease, presented to the ED with dyspnea. On arrival to 
the ED, O2 sat was in the ___ and BP was 200/100. She was placed 
on BiPAP with improvement in her O2 sat to 100%. In the ED, she 
was given nebulizers, solumedrol, and antibiotics in addition to 
the BiPAP, and by the time of admission, her O2 requirement had 
entirely resolved. She was noted to have elevated JVP and weigh 
127 pounds on admission with BNP 2700, both the highest recorded 
in our system. She was diuresed with 40 IV Lasix, with further 
subjective improvement in dyspnea. Given this improvement, she 
was not treated any further with steroids or antibiotics, and 
the team felt that she most likely had flash pulmonary edema 
I/s/o uncontrolled HTN which was (at least partially) treated 
with the positive pressure of BiPAP. A CT chest was obtained to 
better elucidate her lung parenchymal disease, which revealed 
new bibasilar opacities, which might reflect atelectasis vs 
pulmonary infarction due to chronic thromboembolic disease. For 
this reason, CTA was obtained, and although evaluation of the 
small arteries was limited by motion, there was no central 
pulmonary embolism. She was discharged on Lasix 20mg daily, with 
plan for daily weights with ___, and f/u with her PCP and 
existing cardiologist.

# Dyspnea: Briefly required BiPAP in ED, weaned to NC over the 
span of ~24 hours. Lung disease has been described as both COPD 
and asthma in past notes, although PFTs have been limited by 
pt's ability to follow directions. Reportedly has had symptoms 
since moving to the ___ ___ years ago. Last admission, was not 
treated with antibiotics or prednisone, symptoms improved with 
nebulizers alone. Suspect her dyspnea is multifactorial, related 
to both her underlying obstructive lung disease, as well as 
diastolic CHF (Most recent TTE was ___, showed EF 60%.) 
Admission weight was 127 lbs and BNP was elevated (2700) above 
prior values. Given difficulty obtaining accurate PFTs in the 
past, a CT chest was performed to evaluate her lung parenchyma. 
This revealed relatively unimpressive disease, supporting a 
significant contribution of diastolic CHF and perhaps flash 
pulmonary edema contributing to her sudden dyspnea. CTA was also 
obtained due to concern for possible chronic thromboembolism on 
CT non-con, but this study did not reveal any evidence of 
pulmonary embolism. She was diuresed with IV lasix and 
transitioned to her home 20mg PO lasix on discharge. She was 
also continued on her home nebulizers.

# HTN: Presented with BP 200/100, resolved with home meds and 
improvement in dyspnea. Last presentation with dyspnea also with 
extremely elevated BPs. Possibly reactive I/s/o extreme 
distress, although also possible cause of flash pulmonary edema. 
She was mainly normotensive throughout admission on her home 
regimen, losartan 25, metop 25mg XL, IMDUR 60mg
 
 =================  
 CHRONIC ISSUES  
 =================  
# CAD: History of stent LCx and RCA ___, NSTEMI ___ and ___. 
TTE in ___ showed EF 60%.
-continued home aspirin, Plavix, atorvastatin, IMDUR, metoprolol
# Glaucoma: Continued home eye drops
# Bilateral Peripheral Neuropathy: Continued gabapentin.
# Insomnia: Continued home remeron.
# Constipation: Continued home bowel regimen. 
# OA: Continued home APAP prn. 

TRANSITIONAL ISSUES:
-Restarted on Lasix 20mg daily. Please check electrolytes and 
supplement as needed, perform volume exam and titrate as needed. 

-CT chest (non-contrast) showed ?pulmonary infarction at right 
base, CTA showed no large PE but did not rule out a small PE 
causing this opacity 
-Suspect patient has had recurrent flash pulmonary edema, 
continue evaluating BP control as outpatient
-Would obtain labs on ___ and send to PCP. Script 
provided.

Discharge weight: 54.3 kg (119.8 lbs)
Discharge Cr: 1.1

CODE: DNR/OK to intubate
CONTACT/HCP: 

___ 
Relationship: Daughter 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QHS 
2. Docusate Sodium 100 mg PO BID 
3. Clopidogrel 75 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
7. Losartan Potassium 25 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Mirtazapine 15 mg PO QHS 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 8.6 mg PO QHS:PRN constipation 
12. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
13. carboxymethylcellulose sodium 0.25 % ophthalmic QID 
14. Multi-Day with Iron (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN dyspnea 
17. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
18. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
19. Ipratropium-Albuterol Neb 1 NEB NEB TID wheezing/dyspnea 
20. budesonide 1 mg inhalation TID 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Budesonide 1 mg inhalation TID  
6.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
7.  carboxymethylcellulose sodium 0.25 % ophthalmic QID  
8.  Clopidogrel 75 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
11.  Gabapentin 300 mg PO QHS  
12.  Ipratropium-Albuterol Neb 1 NEB NEB TID wheezing/dyspnea  
13.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
14.  Losartan Potassium 25 mg PO DAILY  
15.  Metoprolol Succinate XL 25 mg PO DAILY  
16.  Mirtazapine 15 mg PO QHS  
17.  Multi-Day with Iron (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY  
18.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
19.  Polyethylene Glycol 17 g PO DAILY  
20.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN dyspnea  
21.  Senna 8.6 mg PO QHS:PRN constipation  
22.Outpatient Lab Work
ICD10: I50.31
Please obtain CHEM7 on ___ and send to:
Name: ___ Address: ___ 
___ Phone: ___ Fax: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Acute on chronic diastolic heart failure

SECONDARY DIAGNOSES:
COPD
Hypertension
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were having trouble 
breathing.

While you were in the hospital:
-You were placed on a BiPAP machine which helped your breathing
-You were given nebulizers
-You were started on a medication called furosemide (also called 
Lasix) to help your breathing symptoms

When you leave the hospital:
-You should take Lasix every day, unless you start to feel very 
weak or dizzy
-You should minimize your salt intake
-You should weigh yourself every day, and call your doctor if 
your weight changes by more than 3 pounds in one day
-You should continue using your nebulizers as prescribed

It was a pleasure participating in your care.

Sincerely,
Your ___ Team

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___